US07812022B2
Step C: 4-Iodo-2-(methylthio)pyrimidine
4-Chloro-2-methylthiopyrimidine (40 g, 249 mmol) is added to Hydroiodic acid (57% in water, 200 mL). The suspension is vigorously stirred in the absence of light for 72 h at rt. A bright yellow solid formed which is collected by filtration. The solid is added to saturated aqueous NaHCO3 (500 mL) and stirred for 2 min. CHCl3 (600 mL) is added and the solid dissolved. The aqueous layer is extracted 2 times with CHCl3 (350, then 300 mL) and the organic extracts combined, washed with water (100 mL), dried over MgSO4 and filtered. The organic solvent is removed in vacuo to give colorless oil. Addition of n-hexane and removal of solvent again produced the title compound as a white solid (57.9 g, 230 mmol, 92%).

reactant | 4-Chloro-2-methylthiopyrimidine | 249 mmol, 40 g | ClC1=NC(=NC=C1)SC | C5H5ClN2S
reactant | Hydroiodic acid | 200 mL | I | HI
solvent | n-hexane | CCCCCC | C6H14
product | 4-Iodo-2-(methylthio)pyrimidine | 230 mmol, 57.9 g, 92% | IC1=NC(=NC=C1)SC | C5H5IN2S
